### PR TITLE
Cylindrical decomposition

### PR DESCRIPTION
**Pull request by Tragicus**
Adds a definition of cylindrical decomposition and the required definitions and lemmas.

### CODE REVIEW

File: cylinder.v [hunk 1]
```diff
@@ -2046,68 +2049,264 @@ case: (set0Vmem (SAimset (SAmpoly (val p)) (SAset_cast n.+1 t) :&: SAset_seq [::
...
+  move=> /(_ (SAset_itv `]-oo, 0[%R) (SAset_itv `]0, +oo[)); mp.
+    (* N.B. This takes forever. *)
+    apply/open_subspace_ballP => /= z.
+    rewrite in_setI mem_setE inSAset_itv in_itv/= => /andP[z0] zs.
+    exists (- z ord0 ord0); split; first by rewrite oppr_gt0.
+    apply/subsetP => a; rewrite in_setI => /andP[+] _.
+    rewrite -ball_normE inE/= [normr _]mx_normrE => /bigmax_ltP[_].
+    move=> /(_ (ord0, ord0) isT)/=; rewrite !mxE -opprB normrN => /ltr_normlW.
+    by rewrite -subr_lt0 -addrA subrr addr0 mem_setE inSAset_itv in_itv/=.
+  mp.
```
Comment (CohenCyril) [inline cylinder.v]: what is mp?

**Review by CohenCyril — COMMENTED** [review]
:tada: ?

File: cylinder.v (hunk 1 above)
Comment (Tragicus) [reply cylinder.v]: That is a tactic I have defined earlier that turns a goal `(A -> B) -> C` into goals `A` and `B -> C`. It may disappear during cleanup if we want to, although it has been pervasively useful, so unless you know a hack that does it without copying large terms, we may want to keep it.

Comment (CohenCyril) [reply cylinder.v]: the typical hack is `move=> /(_ _)/wrap[]`

```coq
Lemma test A B C : (A -> B) -> C.
Proof.
move=> /(_ _)/wrap[].
Abort.
```

Comment (CohenCyril) [reply cylinder.v]: could be a good idea to turn it into a dedicated intro pattern tactic to use e.g. `move=> /(fill 1)` (that would fill for example the nth hole in the top of the stack).

Comment (Tragicus) [reply cylinder.v]: Ah, another one I did not know. It is not in the refman?

Comment (CohenCyril) [reply cylinder.v]: > Ah, another one I did not know. It is not in the refman?

No... do you think it should be put there, or isn't a bit too advanced?

Comment (Tragicus) [reply cylinder.v]: Should not a reference manual be exhaustive?

Comment (CohenCyril) [reply cylinder.v]: Well one cannot document every single program or sequence of tactics... But we could add this one... though I still believe it may be nicer packaged as a dedicated intropattern tactic view...

Comment (Tragicus) [reply cylinder.v]: The fact that `move=> /(_ _)/wrap[]` and `move=> /(_ _) => /wrap[]` are not equivalent ~~triggers me a lot~~ makes me feel like this needs some documentation. But maybe I just have a completely wrong model of what ssreflect does and I could have been able to guess what the combination does otherwise (although I have never seen `wrap` either).

**Comment by Tragicus** [comment]
@CohenCyril It looks like `mathcomp-multinomials` is not available to the CI when it tries to build and I failed to add it, can you take a look? Also, it looks like I inadvertently duplicated bundle 8.19.

**Comment by CohenCyril** [comment]
Where is topology.v ?

**Comment by Tragicus** [comment]
Here !

**Comment by CohenCyril** [comment]
Should be fixed now

**Comment by CohenCyril** [comment]
@Tragicus this is a real error (in Coq 8.20+rc1)
https://github.com/math-comp/cad/actions/runs/10198769263/job/28214400608#step:21:2691

**Comment by CohenCyril** [comment]
CI passes for Coq 8.18 and 8.19 :tada:
